US07790709B2
Preparation of (E)-N-Methyl-N-(1-methyl-1H-indol-2-ylmethyl)-3-(2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylamide hydrochloride [AP-501382]
A solution of (E)-3-[4-(4-methoxy-benzyl)-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl]-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide (2.00 g, 3.92 mmol), from Example 65, in dichloroethane (80 mL) was cooled in an ice bath and treated with 1-chloroethyl chloroformate (0.47 mL, 4.31 mmol). After stirring at 0° C. under N2 for 30 min and then at room temperature for 30 min, the mixture was heated to reflux for 1.5 h. The mixture was allowed to cool and then concentrated to dryness. Purification by flash column chromatography (silica gel, CH2Cl2/MeOH, 97:3) gave a tan solid. The solid was suspended in methanol and heated to reflux for 2 h. The mixture was allowed to cool and the solid was isolated by filtration, dissolved in CH2Cl2, washed with 1 N NaOH, dried over Na2SO4, filtered and the solvent was removed in vacuo. Purification by flash column chromatography (silica gel, CH2Cl2/MeOH, 97:3 to 95:5) gave the title compound (0.70 g, 49%) as an off-white solid: 1H NMR (300 MHz, CDCl3) δ 8.38-8.33 (m, 2H), 7.72-7.67 (m, 1H), 7.60-7.57 (m, 2H), 7.32-7.20 (m, 3H), 7.14-7.09 (m, 1H), 6.90-6.80 (m, 1H), 6.49-6.38 (m, 1H), 4.93-4.78 (m, 2H), 4.08 (s, 2H), 3.95 (s, 2H), 3.71 (s, 3H), 3.13-3.07 (m, 3H); MS (ESI) m/e 390 (M+H)+.

reactant | (E)-3-[4-(4-methoxy-benzyl)-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl]-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide | 3.92 mmol, 2.00 g | COC1=CC=C(CN2CC(NC3=C(C2)C=C(C=N3)/C=C/C(=O)N(CC=3N(C2=CC=CC=C2C3)C)C)=O)C=C1 | C30H31N5O3
reactant | 1-chloroethyl chloroformate | 4.31 mmol, 0.47 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloroethane | 80 mL | ClC(C)Cl | C2H4Cl2
solvent | methanol | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (E)-N-Methyl-N-(1-methyl-1H-indol-2-ylmethyl)-3-(2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylamide hydrochloride | 0.70 g, 49% | Cl.CN(C(\C=C\C1=CC2=C(NC(CNC2)=O)N=C1)=O)CC=1N(C2=CC=CC=C2C1)C | InChI=1S/C22H23N5O2.ClH/c1-26(14-18-10-16-5-3-4-6-19(16)27(18)2)21(29)8-7-15-9-17-12-23-13-20(28)25-22(17)24-11-15;/h3-11,23H,12-14H2,1-2H3,(H,24,25,28);1H/b8-7+;
